US07365200B2
Methyl 2-amino-5-methyl-thiophene-3-carboxylate (16.8 g, 299 mmol) was added to a solution of potassium hydroxide (25 g, 146 mmol) in 300 mL water. The solution was heated at 90° C. until to yield a clear solution. The solution was heated at same temperature for another 30 min and then cooled to 0° C. Trichloromethyl chloroformate (26.42 mL, 219 mmol) was added slowly without allowing the temperature to rise beyond 10° C. The solution was further stirred for 2 h. The precipitated solid was collected by vacuum filtration to yield 21.6 g (83%) of 6-methyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione. 1H-NMR (DMSO-d6) δ 2.38 (d, J=1.2 Hz, 3H), 6.90 (q, J=1.2 Hz, 1H), 12.44 (b, 1H) ppm; EIMS m/z 184 (M+1).

reactant | Methyl 2-amino-5-methyl-thiophene-3-carboxylate | 299 mmol, 16.8 g | NC=1SC(=CC1C(=O)OC)C | C7H9NO2S
reactant | potassium hydroxide | 146 mmol, 25 g | [OH-].[K+]
reactant | Trichloromethyl chloroformate | 219 mmol, 26.42 mL | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | water | 300 mL | O | H2O
product | 6-methyl-1H-thieno[2,3-d][1,3]oxazine-2,4-dione | 21.6 g, 83% | CC1=CC2=C(NC(OC2=O)=O)S1 | C7H5NO3S
